US04129591
A 6.5 g portion of 3-amino-2,7-naphthalenedisulfonic acid monosodium salt is suspended in 100 ml of water and the pH is adjusted to 7.5-8.0 giving a solution. A 1.82 g portion of sodium acetate is added and dissolved and 2.75 g of 5-nitro-1,3-benzenedicarbonylchloride is added. A 100 ml portion of water is added to maintain solution and the reaction is allowed to stand overnight. The mixture is treated with activated carbon and concentrated to about 50 ml on a rotary evaporator. The solid which forms is redissolved by heating on a steam bath. Cooling produces crystals which are dried overnight in an Abderhalden under high vacuum and refluxing toluene to give 3,3'-[(5-nitro-1,3-phenylene)bis(carbonylimino)]bis[2,7-naphthalenedisulfonic acid] tetrasodium salt.

reactant | 3-amino-2,7-naphthalenedisulfonic acid monosodium salt | [Na+].NC=1C(=CC2=CC(=CC=C2C1)S(=O)(=O)O)S(=O)(=O)[O-]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 5-nitro-1,3-benzenedicarbonylchloride | 2.75 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)Cl)C(=O)Cl | C8H3Cl2NO4
solvent | water | 100 ml | O | H2O
product | 3,3'-[(5-nitro-1,3-phenylene)bis(carbonylimino)]bis[2,7-naphthalenedisulfonic acid] tetrasodium salt | [Na+].[Na+].[Na+].[Na+].[N+](=O)([O-])C=1C=C(C=C(C1)C(=O)NC=1C(=CC2=CC(=CC=C2C1)S(=O)(=O)[O-])S(=O)(=O)[O-])C(=O)NC=1C(=CC2=CC(=CC=C2C1)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C28H19N3O16S4.4Na/c32-27(29-23-10-14-1-3-21(48(36,37)38)8-16(14)12-25(23)50(42,43)44)18-5-19(7-20(6-18)31(34)35)28(33)30-24-11-15-2-4-22(49(39,40)41)9-17(15)13-26(24)51(45,46)47;;;;/h1-13H,(H,29,32)(H,30,33)(H,36,37,38)(H,39,40,41)(H,42,43,44)(H,45,46,47);;;;/q;4*+1/p-4
